US08377949B2
To a mixture of (S)-2-(7-methoxy-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-hexanoic acid methyl ester (100 mg, 0.31 mmol) and (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethylammonium iodide (160 mg, 0.47 mmol) in DMF (2.5 mL) is added K2CO3 (100 mg, 0.72 mmol). The mixture is stirred at 60° C. for 4 hours. The reaction mixture is allowed to cool to room temperature, diluted with EtOAc (50 mL) and washed with H2O (50 mL×3). The organic layer is dried over sodium sulfate and concentrated. The resulting residue is triturated with EtOAc and hexanes to afford (S)-2-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-7-methoxy-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-hexanoic acid methyl ester (145 mg, 97%).

reactant | (S)-2-(7-methoxy-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-hexanoic acid methyl ester | 0.31 mmol, 100 mg | COC([C@H](CCCC)N1C(NC2=CC(=CC=C2C1=O)OC)=O)=O | C16H20N2O5
reactant | (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethylammonium iodide | 0.47 mmol, 160 mg | [I-].CN1C=C(C2=C(C=CC=C12)C)C[N+](C)(C)C
reactant | K2CO3 | 0.72 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (S)-2-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-7-methoxy-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-hexanoic acid methyl ester | 145 mg, 97% | COC([C@H](CCCC)N1C(N(C2=CC(=CC=C2C1=O)OC)CC1=CN(C2=CC=CC(=C12)C)C)=O)=O | C27H31N3O5
